US07432269B2
Step a: Preparation of 4-(2-cyano-3-trifluoromethylphenyl)piperazine
A mixture of 3 g (15.8 mmol) of 2-fluoro-6-trifluoromethylbenzonitrile, 7.5 g (87 mmol) of piperazine and 24 mL of dioxane is heated at reflux for 5 hours.

reactant | 2-fluoro-6-trifluoromethylbenzonitrile | 15.8 mmol, 3 g | FC1=C(C#N)C(=CC=C1)C(F)(F)F | C8H3F4N
reactant | piperazine | 87 mmol, 7.5 g | N1CCNCC1 | C4H10N2
solvent | dioxane | 24 mL | O1CCOCC1 | C4H8O2
product | 4-(2-cyano-3-trifluoromethylphenyl)piperazine | C(#N)C1=C(C=CC=C1C(F)(F)F)N1CCNCC1 | C12H12F3N3
